US06762205B1
The procedure of Preparation Example 34 was repeated, except that 101 mg of 4-[N-(1,2,4-triazol-4-yl)aminomethyl]phenol was used in place of 4-methoxybenzylamine, and 105 mg of 3-cyanobenzoyl chloride was used in place of 4-cyanobenzoyl chloride. The resulting crude product was purified by TLC (using a 10:1 mixture of chloroform and methanol as the developing solvent) to obtain 26 mg of 3-cyano-N-(4-hydroxybenzyl)-N-(1,2,4-triazol-4-yl)benzamide.

reactant | 4-[N-(1,2,4-triazol-4-yl)aminomethyl]phenol | 101 mg | N=1N=CN(C1)NCC1=CC=C(C=C1)O | C9H10N4O
reactant | 3-cyanobenzoyl chloride | 105 mg | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | 3-cyano-N-(4-hydroxybenzyl)-N-(1,2,4-triazol-4-yl)benzamide | 26 mg | C(#N)C=1C=C(C(=O)N(N2C=NN=C2)CC2=CC=C(C=C2)O)C=CC1 | C17H13N5O2
